US06462040B1
t-Butyl Cis-2-methoxycarbonylcyclopropanecarboxylate
To 70 ml of an anhydrous tetrahydrofuran solution of 6.83 g (47.4 mmol) of cis-2-methoxycarbonylcyclopropanecarboxylic acid were added 1.16 g (9.48 mmol) of dimethylaminopyridine and 13.45 g (61.6 mmol) of di-t-butyl dicarbonate at room temperature, and the mixture was stirred at the same temperature for 4 hours. After completion of the reaction, the solvent was removed by evaporation under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed successively with 0.5N hydrochloric acid, water, and a saturated sodium chloride aqueous solution. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give 9.49 g (quantitative) of the title compound as a brown oily substance. 1H-NMR (CDCl3) δ ppm: 1.10-1.20 (1H, m), 1.44 (9H, s), 1.55-1.65 (1H, m), 1.95-2.05 (2H, m), and 3.67 (3H, s).

reactant | cis-2-methoxycarbonylcyclopropanecarboxylic acid | 47.4 mmol, 6.83 g | COC(=O)[C@@H]1[C@@H](C1)C(=O)O | C6H8O4
reactant | dimethylaminopyridine | 9.48 mmol, 1.16 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyl dicarbonate | 61.6 mmol, 13.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | t-Butyl Cis-2-methoxycarbonylcyclopropanecarboxylate | COC(=O)[C@@H]1[C@@H](C1)C(=O)OC(C)(C)C | C10H16O4
